US06528504B2
60% sodium hydride (34 mg, 0.87 mmol) was washed with hexane under argon atmosphere, and then suspended in dimethyl sulfoxide (4 ml). After stirring at room temperature for 25 minutes, 5,11-dihydrodibenzo[b,e][1,4]oxazepine (152 mg, 0.77 mmol) was added to the obtained suspension. They were stirred at room temperature for 25 minutes and then at 50° C. for 25 minutes. A solution of (S)-1-(4-chlorophenethyl)-3-methanesulfonyloxypyrrolidine (252 mg, 0.83 mmol) in dimethyl sulfoxide (2 ml) was added dropwise in the obtained solution, and they were stirred at 50° C. for 90 minutes. The reaction liquid was poured into water in ice cooling bath. After the extraction with ethyl acetate, the organic layer was dried and the solvent was evaporated under reduced pressure. The obtained residue was subjected to silica gel column chromatography. The product was eluted with hexane and ethyl acetate (2:1) and then with hexane and ethyl acetate (1:2) as the eluents. The appropriate fractions were combined, and the solvent was evaporated under reduced pressure to obtain (R)-5-[1-(4-chlorophenethyl) pyrrolidine-3-yl]-5,11-dihydrodibenzo[b,e][1,4]oxazepine in the form of a light yellow oil (44 mg, 14%).

reactant | sodium hydride | 0.87 mmol, 34 mg | [H-].[Na+]
reactant | 5,11-dihydrodibenzo[b,e][1,4]oxazepine | 0.77 mmol, 152 mg | C1=CC=CC=2NC3=C(OCC21)C=CC=C3 | C13H11NO
reactant | (S)-1-(4-chlorophenethyl)-3-methanesulfonyloxypyrrolidine | 0.83 mmol, 252 mg | ClC1=CC=C(CCN2C[C@H](CC2)OS(=O)(=O)C)C=C1 | C13H18ClNO3S
reactant | water | O | H2O
solvent | hexane | CCCCCC | C6H14
solvent | dimethyl sulfoxide | 4 ml | CS(=O)C | C2H6OS
solvent | dimethyl sulfoxide | 2 ml | CS(=O)C | C2H6OS
product | (R)-5-[1-(4-chlorophenethyl) pyrrolidine-3-yl]-5,11-dihydrodibenzo[b,e][1,4]oxazepine | ClC1=CC=C(CCN2C[C@@H](CC2)N2C3=C(OCC4=C2C=CC=C4)C=CC=C3)C=C1 | C25H25ClN2O
